US07105258B2
A 2-L Kolben equipped with a stirrer and a drain device was charged under a nitrogen stream with 150 g (369.5 mmol) of 4,4′-diiodobiphenyl, 123.5 g (738.6 mmol) of carbazole, 23 g of copper powder, 100 g of potassium carbonate, and 500 ml of 1,3-diisopropylbenzene. The mixture was heated under reflux for 30 hr and was allowed to cool. Toluene was then added, and the mixture was filtered. The solvent in the filtrate was distilled off under reduced pressure. Methanol (500 ml) was added to the residue to precipitate crystals. The crystals were collected by filtration to give CBP (4,4′-bis(carbazol-9-yl)-biphenyl) (122.8 g, yield 68.6%).

reactant | 4,4′-diiodobiphenyl | 369.5 mmol, 150 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | carbazole | 738.6 mmol, 123.5 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-diisopropylbenzene | 500 ml | C(C)(C)C1=CC(=CC=C1)C(C)C | C12H18
catalyst | copper | 23 g | [Cu] | Cu
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | CBP | 122.8 g, yield 68.6% | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C36H24N2
